US04604390
Reaction of a mixture of 4.5 g (0.0343 mol) of 2-(diethylaminoethyl)hydrazine, 7.5 g (0.0233 mol) of 1-chloro-2-methoxy-4-nitro-9H-thioxanthen-9-one in 200 ml of DMF as described in Example 53 gave 7.6 g of product. 1-Chloro-2-methoxy-4-nitro-9H-thioxanthen-9-one is prepared from 2-thiobenzoic acid and 2,4-dichloro-5-nitroanisole [C. Bloomfield, A. K. Manglik, R. B. Mootie, K. Schofield, and G. D. Tokin, J. Chem. Soc. Perkin Trans. II, 75 (1983)] in the manner of Example 58.

reactant | 2-thiobenzoic acid | C1=CC=C(C(=C1)C(=O)O)S | C7H6O2S
reactant | 2,4-dichloro-5-nitroanisole | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])OC | C7H5Cl2NO3
product | 1-Chloro-2-methoxy-4-nitro-9H-thioxanthen-9-one | ClC1=C(C=C(C=2SC3=CC=CC=C3C(C12)=O)[N+](=O)[O-])OC | C14H8ClNO4S
